US06916819B2
Ammonia gas is bubbled through a solution of 2-trifluoromethyl-4-chloro-5-nitro-pyridine (4.12 g, 18.23 mmol) in anhydrous THF at room temperature for 3 h. Removal of solvent under reduced pressure affords 5-nitro-2-trifluoromethyl-pyridin-4-ylamine (3.6 g, 96%); 1H NMR (300 MHz, CDCl3): δ 7.15 (s, 1H), 9.15 (s,1H).

reactant | Ammonia | N | H3N
reactant | 2-trifluoromethyl-4-chloro-5-nitro-pyridine | 18.23 mmol, 4.12 g | FC(C1=NC=C(C(=C1)Cl)[N+](=O)[O-])(F)F | C6H2ClF3N2O2
solvent | THF | C1CCOC1 | C4H8O
product | 5-nitro-2-trifluoromethyl-pyridin-4-ylamine | 3.6 g, 96% | [N+](=O)([O-])C=1C(=CC(=NC1)C(F)(F)F)N | C6H4F3N3O2
